US04182897
Phosphorus pentachloride (22 g) was added to 20.7 g of m-nitro-α-methylcinnamic acid suspended in 300 ml of ethyl acetate, and the resulting mixture was stirred at room temperature for 1 hour. After the reaction, the solvent was removed by distillation under reduced pressure, upon which m-nitro-α-methylcinnamoyl chloride precipitated. This was dissolved in 300 ml of ethyl acetate, and 9.4 g of phenol was added to the solution. The solution was subjected to reaction at room temperature for 1 hour. Then the reaction mixture was washed with 10% HCL, 10% NaOH and water in this order and dried on anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, to obtain phenyl m-nitro-α-methylcinnamate in the form of a light yellow oily matter. Yield: 25.5 g (90%); IR (cm-1); 1720, 1525, 1352.

reactant | Phosphorus pentachloride | 22 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | m-nitro-α-methylcinnamic acid | 20.7 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)O)C)C=CC1 | C10H9NO4
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | phenyl m-nitro-α-methylcinnamate | [N+](=O)([O-])C=1C=C(C=C(C(=O)OC2=CC=CC=C2)C)C=CC1 | C16H13NO4
